US06638321B1
a) Preparation of (2-Fluoro-4-nitrophenyl)-(3-imidazol-1-ylpropyl)amine
Starting with 31.8 g (0.2 mol) of 1,2-difluoro-4-nitrobenzene and 37.5 g (0.3 mol) of 3-imidazol-1-ylpropylamine, and after purification by recrystallization from refluxing 96° C. ethanol, 36.0 g of orange-yellow crystals melting at 144° C. (Kofler) were obtained, the elemental analysis of which, calculated for C12H13N4O2F, was:

reactant | 1,2-difluoro-4-nitrobenzene | 0.2 mol, 31.8 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | 3-imidazol-1-ylpropylamine | 0.3 mol, 37.5 g | N1(C=NC=C1)CCCN | C6H11N3
product | (2-Fluoro-4-nitrophenyl)-(3-imidazol-1-ylpropyl)amine | 36.0 g | FC1=C(C=CC(=C1)[N+](=O)[O-])NCCCN1C=NC=C1 | C12H13FN4O2
